US08580710B2
S.1.b) Preparation of intermediate compound acetic acid 2-{3-[2-(3,5-dimethyl-phenyl)-1-(5,6,7,8-tetrahydronaphthalen-1-yl)-ethyl]-thioureido}-ethyl ester
A solution of 2-(3,5-dimethylphenyl)-1-(5,6,7,8-tetrahydronaphthalen-1-yl)-ethylamine (2.18 g) in 40 ml of chloroform was treated with acetic acid 2-isothiocyanato-ethyl ester (1.13 g) at room temperature and the mixture heated under reflux for 2 hours. After completion of the reaction the solvent was evaporated in vacuo and the residue was purified on silica gel with a gradient of cyclohexan/ethyl acetate. This yielded the title compound in 2.74 g (83%).

reactant | 2-(3,5-dimethylphenyl)-1-(5,6,7,8-tetrahydronaphthalen-1-yl)-ethylamine | 2.18 g | CC=1C=C(C=C(C1)C)CC(C1=CC=CC=2CCCCC12)N | C20H25N
reactant | acetic acid 2-isothiocyanato-ethyl ester | 1.13 g | N(=C=S)CCOC(C)=O | C5H7NO2S
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
product | acetic acid 2-{3-[2-(3,5-dimethyl-phenyl)-1-(5,6,7,8-tetrahydronaphthalen-1-yl)-ethyl]-thioureido}-ethyl ester | CC=1C=C(C=C(C1)C)CC(C1=CC=CC=2CCCCC12)NC(NCCOC(C)=O)=S | C25H32N2O2S
